US07166621B2
(2-Methoxy-5-methylhex-3-yn-5-yl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane (1.2 g) was stirred with dilute aqueous hydrochloric acid (12 ml) for 0.25 hours. The aqueous phase was washed with diethyl ether (twice) and the evaporated under reduced pressure. The residue was evaporated with toluene (twice) to remove residual water to give 5-amino-2-methoxy-5-methylhex-3-yne hydrochloride, 0.54 g, as a yellow solid.

reactant | (2-Methoxy-5-methylhex-3-yn-5-yl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane | 1.2 g | COC(C)C#CC(C)(C)N1[Si](CC[Si]1(C)C)(C)C | C14H29NOSi2
reactant | hydrochloric acid | 12 ml | Cl | ClH
product | 5-amino-2-methoxy-5-methylhex-3-yne hydrochloride | Cl.NC(C#CC(C)OC)(C)C | InChI=1S/C8H15NO.ClH/c1-7(10-4)5-6-8(2,3)9;/h7H,9H2,1-4H3;1H
